US07345034B2
2-Hydroxy caproic acid (152 mg, 1.15 mmol) was dissolved in 3 mL anhydrous THF. Sodium hydride (95%, 61 mg, 2.41 mmol) was added and the mixture was stirred at room temperature for 40 min. Iodomethane (0.7 mL) was added and the mixture was stirred at room temperature overnight. It was quenched with water, stirred for 4 hours to hydrolyze the methyl ester, and then adjusted to pH 4 with 10% citric acid. The mixture was extracted with 5% methanol in dichloromethane, organic layer dried over sodium sulfate, filtered, and the filtrate was concentrated to give the crude 2-methoxy caproic acid which was used in next step without further purification.

reactant | 2-Hydroxy caproic acid | 1.15 mmol, 152 mg | OC(C(=O)O)CCCC | C6H12O3
reactant | Sodium hydride | 2.41 mmol, 61 mg | [H-].[Na+]
reactant | Iodomethane | 0.7 mL | IC | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-methoxy caproic acid | COC(C(=O)O)CCCC | C7H14O3
